US05317103
1. 2-[5-Carboxy-1H-indol-3-yl]N,N-dimethylethylamine
A solution of 2-[5-Carboethoxy-1H-indol-3-yl]N,N-dimethylethylamine (1.4 g, 5.4 mmol) and lithium hydroxide (0.45 g, 10.8 mmol) in ethanol (40 ml) was heated at 60° C. for 8 hours, then stirred overnight at room temperature. The ethanol was removed in vacuo and the crude residue chromatographed (eluant 20:15:5:1 ether:ethanol:water:ammonia). The acid (0.94 g, 75%) was isolated as a white solid, after precipitation with ether. δ(360 MHz, D6 -DMSO) 2.86 (6H, s), 3.09 (2H, t, J=7 Hz), 3.33 (2H, t, J=7 Hz), 7.22 (1H, s), 7.46 (1H, d, J=9 Hz), 7.78 (1H, dd, J=9 and 2 Hz), 8.12 (1H, s).

reactant | 2-[5-Carboethoxy-1H-indol-3-yl]N,N-dimethylethylamine | 5.4 mmol, 1.4 g | C(=O)(OCC)C=1C=C2C(=CNC2=CC1)CCN(C)C | C15H20N2O2
reactant | lithium hydroxide | 10.8 mmol, 0.45 g | [OH-].[Li+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-[5-Carboxy-1H-indol-3-yl]N,N-dimethylethylamine | 0.94 g, 75% | C(=O)(O)C=1C=C2C(=CNC2=CC1)CCN(C)C | C13H16N2O2
